US04423070
3',4'-Bis(acetoxy)-2-bromoacetophenone was reacted with N-[2-(benzylamino)ethyl]-2-phenylacetamide using a similar procedure to that described in Example 1 for the analogous pivaloyloxy derivative to give 2-{N-benzyl-N-[2-(2-phenylacetamido)ethyl]amino}-3',4'-bis(acetoxy)acetophenone, which was isolated as its free base and converted to its hydrochloride salt with ethereal hydrogen chloride to give a solid, m.p. 140°-145° C.

reactant | 3',4'-Bis(acetoxy)-2-bromoacetophenone | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C(CBr)=O | C12H11BrO5
reactant | N-[2-(benzylamino)ethyl]-2-phenylacetamide | C(C1=CC=CC=C1)NCCNC(CC1=CC=CC=C1)=O | C17H20N2O
product | 2-{N-benzyl-N-[2-(2-phenylacetamido)ethyl]amino}-3',4'-bis(acetoxy)acetophenone | C(C1=CC=CC=C1)N(CCNC(CC1=CC=CC=C1)=O)CC(=O)C1=CC(=C(C=C1)OC(C)=O)OC(C)=O | C29H30N2O6
